Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
2 episodes of L head deviation w/ possible convulsions
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o female w/ h/o HTN, HLD, OSA, presenting w/ 2 episodes of 
L head deviation w/ possible convulsions. Admitted for 
evaluation due to concern for new-onset seizures.
 
Past Medical History:
HTN, HLD, OSA
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM.
Neck: No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E
Skin: no rashes or lesions noted.
Neur:
MS: A&Ox3. Fluent speech. Able to appropriately converse and
relate detailed history.
CN: PERRL. EOMI. Symmetric face. Tongue midline.
Motor: Normal tone and bulk throughout. No pronator drift. ___
strength throughout.
Reflex: 2+ throughout; Achilles not tested. B/l toes downgoing.
___: No deficits to light touch throughout.
Coordination: No dysmetria on finger-nose b/l.
Gait: Deferred.
 
Pertinent Results:
___ 04:25AM BLOOD WBC-9.9 RBC-3.73* Hgb-11.2 Hct-33.5* 
MCV-90 MCH-30.0 MCHC-33.4 RDW-13.5 RDWSD-44.3 Plt ___
___ 09:25AM BLOOD Neuts-86.3* Lymphs-8.9* Monos-3.8* 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-9.75* AbsLymp-1.01* 
AbsMono-0.43 AbsEos-0.00* AbsBaso-0.03
___ 09:25AM BLOOD ___ PTT-25.1 ___
___ 04:25AM BLOOD Glucose-97 UreaN-9 Creat-0.6 Na-142 
K-3.0* Cl-102 HCO3-26 AnGap-14
___ 04:25AM BLOOD ALT-38 AST-22 LD(LDH)-162 AlkPhos-125* 
TotBili-0.7
___ 04:55PM BLOOD CK(CPK)-274*
___ 04:25AM BLOOD Albumin-3.8 Calcium-8.6 Phos-2.0* Mg-1.6
___ 09:25AM BLOOD cTropnT-<0.01
___ 09:31AM BLOOD pO2-44* pCO2-42 pH-7.38 calTCO2-26 Base 
XS-0 Comment-SOURCE NOT
___ 09:25AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 05:01PM BLOOD Lactate-1.3
 
Brief Hospital Course:
Pt had no acute events while inpt. EEG showed R temporal 
electrographic seizures; no clinical seizures; final EEG report 
pending. Levetiracetam started and no further seizures noted. 
Patient was observed for 24 hours without any further seizure 
activity.

MRI (per Radiology):
Study is moderately degraded by motion. 
No acute intracranial abnormality, with no definite evidence of 
acute infarct.
Within limits of study, no evidence of intracranial mass. 
Nonspecific prominent adenoidal tissue. 
Nonspecific right parietal scalp soft tissue swelling and 
question small subdural hematoma as described, better 
demonstrated on prior day noncontrast head CT.

Pt discharged in stable condition to f/up w/ primary care w/in 5 
days for removal of scalp staples. Also to f/up w/ Epilepsy (Dr. 
___ for further seizure management. Patient given number for 
clinic. 
At D/C final reports for EEG pending.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 20 mg PO QPM  
2.  LevETIRAcetam 1000 mg PO Q12H 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*180 Tablet Refills:*0 
3.  Spironolactone 50 mg PO TID  
4.  Lisinopril 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epileptic seizures (focal)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
  You were diagnosed with epileptic seizures arising from the R 
temporal lobe.
MRI of your brain showed no abnormalities.
We have started the medication levetiracetam.
You should follow up with your primary care in w/in 5 days to 
have the scalp staples removed. You should also follow-up with 
Dr. ___ at ___ Deaconess. ___ you not 
hear from his office in ___ days, please call ___  for 
an appointment 
 
Followup Instructions:
___